US08980392B2
N-(3-triethoxysilylpropyl)-4,5-dihydroimidazole (according to formula (IIIa))
53.2 g of ethyl orthoformate (0.36 mol) is added at +20° C. to 80 g of N-(2-aminoethyl)-3-aminopropyltriethoxysilane (0.3 mol). The temperature of the mixture is brought up to reflux until formation of ethanol is no longer observed. The reaction mixture is then distilled under partial vacuum (2-5 mbar) and the desired product (69.1 g) is recovered (temperature: 130-135° C.)

reactant | ethyl orthoformate | 0.36 mol, 53.2 g | C(OCC)([O-])[O-]
reactant | N-(2-aminoethyl)-3-aminopropyltriethoxysilane | 0.3 mol | NCCNCCC[Si](OCC)(OCC)OCC | C11H28N2O3Si
solvent | ethanol | C(C)O | C2H6O
product | N-(3-triethoxysilylpropyl)-4,5-dihydroimidazole | C(C)O[Si](CCCN1C=NCC1)(OCC)OCC | C12H26N2O3Si
